US03983106
A. 3-Chloro-2-phenyl-1,5-benzothiazepin-4(5H)-one
2,3-Dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one (25.5 grams, 0.1 mole) is stirred in 250 ml of dimethylformamide. To the stirred solution is added a solution of N-chlorosuccinimide (27 grams, 0.2 mole) in 100 ml of dimethylformamide. The mixture is stirred at 105°-110°C for 5 hours, followed by cooling. The cooled solution is poured into 1.8 liters of cold water and a solid precipitates. The crude product (28 grams) has a melting point of 238°-240°C. The crude product is crystallized from a mixture of 30 ml hot dimethylformamide and 90 ml acetonitrile yielding 26.2 grams of the title compound, melting point 241°-243°C.

reactant | 2,3-Dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one | 0.1 mole, 25.5 grams | C1(=CC=CC=C1)C1SC2=C(NC(C1)=O)C=CC=C2 | C15H13NOS
reactant | N-chlorosuccinimide | 0.2 mole, 27 grams | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 1.8 liters | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-phenyl-1,5-benzothiazepin-4(5H)-one | ClC1=C(SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C15H10ClNOS
